US04161538
Ethyl 2-[4-(1-Ethoxycarbonyl-2-oxocyclohexan-1-ylmethyl)phenyl]propionate
To a mixture of 9.6 g of 50% sodium hydride and 200 ml of dimethyl formamide was added dropwise 34 g of ethyl 2-cyclohexanone carboxylate under ice-cooling, the mixture was stirred at 50° C. for 30 minutes, thereafter again under ice-cooling 45.3 g of ethyl 2-(p-chloromethylphenyl)propionate was added dropwise, and the mixture was heated at 50°-60° C. with stirring for 1 hour. After the reaction was completed, the reaction mixture was poured into an ice-water, extracted with ether, the extract washed with water, dried over anhydrous sodium sulfate, and the solvent removed by distillation to give 69.5 g of an oily substance, which was subjected to a vacuum distillation affording 57 g of the dsired compound as a colorless oily substance, b.p. 200°-205° C. at 0.4 mm Hg.

reactant | sodium hydride | 9.6 g | [H-].[Na+]
reactant | ethyl 2-cyclohexanone carboxylate | 34 g | CCOC(=O)C1CCCCC1=O | C9H14O3
reactant | ethyl 2-(p-chloromethylphenyl)propionate | 45.3 g | ClCC1=CC=C(C=C1)C(C(=O)OCC)C | C12H15ClO2
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[4-(1-Ethoxycarbonyl-2-oxocyclohexan-1-ylmethyl)phenyl]propionate | 57 g | C(C)OC(=O)C1(C(CCCC1)=O)CC1=CC=C(C=C1)C(C(=O)OCC)C | C21H28O5
